US05811389
12.1 ml of dimethyl sulphate were added at room temperature while stirring well to a suspension of 20.0 g (85.0 mmol) of resorufin, 17.6 g of freshly powdered potassium carbonate and 10 drops of tris-[2-(2-methoxyethoxy)ethyl]amine in 150 ml of dioxan. The reaction mixture was subsequently stirred at 100° for 2 hours, cooled and then treated with 150 ml of water. The solid was filtered off, washed with water and dried over phosphorus pentoxide. 11.5 g (59.5%) of resorufin methyl ether of m.p. 240°-244° (dec.) were obtained.

reactant | dimethyl sulphate | 12.1 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | resorufin | 85.0 mmol, 20.0 g | C1=CC2=C(C=C1O)OC3=CC(=O)C=CC3=N2 | C12H7NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
catalyst | tris-[2-(2-methoxyethoxy)ethyl]amine | 10 drops | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | resorufin methyl ether | 11.5 g, 59.5% | COC1=CC2=C(C=C1)N=C3C=CC(=O)C=C3O2 | C13H9NO3
